US04373104
To a pyridine solution of 3.2 g. of α-(carboxymethyl-mercapto)-6,7-dimethoxy-3,4-dihydro-1-isoquinolyl-acetonitrile 2.1 g. of dicyclohexyl-carbodiimide are added. The reaction mixture is allowed to stand at room temperature for two days. The solvent is evaporated in vacuo and the residue is recrystallized from butanol. 1.9 g. of 1-cyano-9,10-dimethoxy-3,4,6,7-tetrahydro-1,4-thiazino[3,4-a]isoquinoline-4-one are obtained, melting at 186° to 187° C. after recrystallization from butanol.

reactant | α-(carboxymethyl-mercapto)-6,7-dimethoxy-3,4-dihydro-1-isoquinolyl-acetonitrile | 2.1 g | C(=O)(O)CSC(C#N)C1=NCCC2=CC(=C(C=C12)OC)OC | C15H16N2O4S
reactant | dicyclohexyl-carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-cyano-9,10-dimethoxy-3,4,6,7-tetrahydro-1,4-thiazino[3,4-a]isoquinoline-4-one | C(#N)C=1SCC(N2C1C1=CC(=C(C=C1CC2)OC)OC)=O | C15H14N2O3S
